US05686424
Using the procedure described above, a solution of L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide (0.124 g, 0.33 mmol, 1.0 eq), and N-methylmorpholine (43 uL, 40 mg, 0.40 mmol, 1.20 eq), in acetonitrile (3 mL) was treated with isobutyl chloroformate (45 uL, 47 mg, 0.35 mmol, 1.05 eq) followed by 4-phenylpiperidine (69 mg, 0.43 mmol, 1.3 eq). Workup as above provided 101 mg (59%) of L-isoleucine, N-[1-(2-(4-phenylpiperidyl)-2-oxoethyl)-L-prolyl] benzylamide.

reactant | L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide | 0.33 mmol, 0.124 g, 1.0 eq | C(=O)(O)CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1 | C20H29N3O4
reactant | N-methylmorpholine | 0.40 mmol, 43 uL, 40 mg, 1.20 eq | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.35 mmol, 45 uL, 47 mg, 1.05 eq | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-phenylpiperidine | 0.43 mmol, 69 mg, 1.3 eq | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | L-isoleucine, N-[1-(2-(4-phenylpiperidyl)-2-oxoethyl)-L-prolyl] benzylamide | 101 mg, 59% | C1(=CC=CC=C1)C1CCN(CC1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C31H42N4O3
